US04640931
(2RS)-2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloroindan-1-one (1) (2RS)-2-cyclopentyl-2-methyl-5-trifluoromethanesulfonyloxy-6,7-dichloroindan-1-one
To a solution of 600 mg of (2RS)-2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloroindan-1-one (prepared by the method described in European Patent Publication No. 47011) in 6 ml of dry acetone was added 690 mg of potassium carbonate at a time and the mixture was stirred for twenty minutes. The reaction mixture was cooled to 0° C., 0.23 ml of trifluoromethanesulfonyl chloride was dropped thereto and the mixture was stirred for 10 minutes at the same temperature. The solid was filtered out from the reaction mixture and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in methylene chloride and the solution was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 860 mg of the title compound as crude product having the following physical data.

reactant | (2RS)-2-cyclopentyl-2-methyl-5-hydroxy-6,7-dichloroindan-1-one | 600 mg | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C15H16Cl2O2
reactant | potassium carbonate | 690 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoromethanesulfonyl chloride | 0.23 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | acetone | 6 ml | CC(=O)C | C3H6O
product | (2RS)-2-cyclopentyl-2-methyl-5-mercapto-6,7-dichloroindan-1-one | 860 mg | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)S)Cl)Cl)=O)C | C15H16Cl2OS
